US04798620
Sodium hydroxide (0.9 g) and water (20 ml) were added to a mixture of 4-ethoxycarbonylmethyl-7-fluoro-6-nitro-2H-1,4-benzoxazin-3(4H)-one (5.96 g) and 1,4-dioxane (50 ml). The mixture was stirred at room temperature for one day. Afterthe solvent was distilled off, the residue was mixed with water (100 ml), then filtered. The filtrate was acidified with hydrochloric acid, and extracted with methyl isobutyl ketone (150 ml). After the extract was washed with water, it was dried with anhydrous sodium sulfate, and then the solvent was distilled off to give the desired 4-carboxymethyl-7-fluoro-6-nitro-2H-1,4-benzoxazin-3(4H)-one (4.8 g). mp. 177°-183° C.

reactant | Sodium hydroxide | 0.9 g | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
reactant | 4-ethoxycarbonylmethyl-7-fluoro-6-nitro-2H-1,4-benzoxazin-3(4H)-one | 5.96 g | C(C)OC(=O)CN1C(COC2=C1C=C(C(=C2)F)[N+](=O)[O-])=O | C12H11FN2O6
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-carboxymethyl-7-fluoro-6-nitro-2H-1,4-benzoxazin-3(4H)-one | 4.8 g | C(=O)(O)CN1C(COC2=C1C=C(C(=C2)F)[N+](=O)[O-])=O | C10H7FN2O6
